US06251897B1
A solution of 3-(3,4-dimethoxyphenyl)-3-hydroxypropiononitrile (1.25 g, 6.02 mM) in dried tetrahydrofuran (25 ml) was dropped into a solution of lithium aluminum hydride (0.55 g, 14.48 mM) in dried tetrahydrofuran (40 ml) at 0° C. This was gradually warmed to room temperature and stirred for 1 hour. Next, the reaction solution was again cooled to 0° C., water was carefully added to it, then the mixture was stirred at room temperature for 30 minutes. Next, the solution was filtered through Celite, the filtrate was dried over anhydrous sodium sulfate, then the solvent was removed in vacuo to obtain a crude product of 3-amino-1-(3,4-dimethoxyphenyl)-1-propanol (1.27 g). The crude product obtained here had a sufficient purity even without purification, so could be used as it was for the next reaction.

reactant | 3-(3,4-dimethoxyphenyl)-3-hydroxypropiononitrile | 6.02 mM, 1.25 g | COC=1C=C(C=CC1OC)C(CC#N)O | C11H13NO3
reactant | lithium aluminum hydride | 14.48 mM, 0.55 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-amino-1-(3,4-dimethoxyphenyl)-1-propanol | 1.27 g | NCCC(O)C1=CC(=C(C=C1)OC)OC | C11H17NO3
